2201-08-08 08:24:00 Physician Resident Progress Note
Chief Complaint: 84M with NASH cirrhosis/ESLD and metastatic HCC p/w
   hypotension and falls.
   24 Hour Events:
 PRESEP CATHETER - START [**2201-8-7**] 05:58 PM
   placed in ED
 BLOOD CULTURED - At [**2201-8-8**] 03:30 AM
 ARTERIAL LINE - START [**2201-8-8**] 03:30 AM
   Required 3 pressors overnight
   WBC increased overnight from 55K to 93K
   Code discussion with wife [**Name (NI) 789**] and son, DNR/[**Name2 (NI) 329**], do not want to pursue
   surgical options.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2201-8-8**] 04:00 AM
   Piperacillin - [**2201-8-8**] 04:48 AM
   Metronidazole - [**2201-8-8**] 05:49 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2201-8-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-8**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 63 (62 - 81) bpm
   BP: 95/43(62) {95/43(62) - 119/57(79)} mmHg
   RR: 15 (11 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (1 - 10)mmHg
   Mixed Venous O2% Sat: 77 - 81
   Total In:
                                                                  7,180 mL
                                                                    665 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,380 mL
                                                                    615 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    225 mL
                                                                    485 mL
   Urine:
                                                                    225 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,955 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   General: Awake, responding to questions, mildly confused. Ill,
   cachectic elderly man
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MM dry, telangiectasias
   on face.
   Neck: supple, JVP to 12cm, left IJ in place
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: + distended, ascites, non-tense. Minimally TTP diffusely, no
   rebound or guarding. Mild suprapubic tenderness.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no rashes or lesions noted.  Pale with multiple cherry angiomata
   and telangiectasias.
   Neurologic: Alert, confused with poor attention and short term memory.
   Responding appropriately to questions, follows commands.
   Labs / Radiology
   195 K/uL
   9.2 g/dL
   107 mg/dL
   2.0 mg/dL
   13 mEq/L
   5.7 mEq/L
   50 mg/dL
   110 mEq/L
   135 mEq/L
   29.1 %
   93.6 K/uL
        [image002.jpg]
                             [**2201-8-7**]  06:47 PM
                             [**2201-8-7**]  08:46 PM
                             [**2201-8-8**]  03:12 AM
   WBC
   80.8
   93.6
   Hct
   27
   25.4
   29.1
   Plt
   202
   195
   Cr
   2.0
   TropT
   <0.01
   Glucose
   154
   107
   Other labs: PT / PTT / INR:16.6/50.3/1.5, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:22/41, Alk Phos / T Bili:377/1.8,
   Amylase / Lipase:35/, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:179
   IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   84M with ESLD with refractory ascites and metastatic HCC, recent c.
   diff p/w falls, hypotension, hypothermia.
   .
   <I>PLAN:</I>
   .
   #Hypotension:
   Pt in severe septic shock, hypotension not responsive to IVF, presented
   to ED on 2 pressors, hypothermic with increase in his baseline
   leukocytosis with 5% bandemia.  Ddx most likely infectious with
   possible sources c. diff (especially given recent c. diff infection,
   ongoing abx use for SBP ppx, diarrhea and leukocytosis), SBP.  PNA
   unlikely given minimal 02 requirement and nl CT and CXR.  UA is bland,
   no meningeal signs or focal neuro findings to suggest a CNS infection,
   no evidence skin infection.  Alternative etiologies for hypotension
   include relative adrenal insufficiency especially in setting of known
   malignancy with new adrenal lesion on CT. Cardiogenic shock unlikely
   given unchanged ecg, negative CEs and no evidence of CHF on CXR or
   exam.  PE also unlikely in this liver patient with coagulopathy, also
   not hypoxic on exam, not tachycardic.
   -Infection:
   --send C.diff samples
   --empiric coverage for severe c. diff with PO vancomycin and IV flagyl
   --close monitoring for development of toxic megacolon
   --follow up final read abd/pelvis.
   --broad coverage for severe sepsis with vancomycin IV and zosyn
   --UA negative, f/u cultures
   --ascites fluid negative for SBP, follow up gram stain and cultures
   --follow up blood cultures.
   .
   -? adrenal insufficiency
   --random cortisol not low. No steroids given
   .
   -Septic shock
   --IVF (use NS despite hyperchloremic acidosis as LR contraindicated in
   ESLD, hyperkalemia, hypernatremia)to keep CVP 8-12, UOP ~50cc/hour
   --Tx to keep hct >30
   --Wean off dopa, adding on vasopressin, levophed goal MAP>65
   .
   # Leukocytosis:
   Pt
s baseline WBC in 30-40K with left shift, unclear etiology.
   Presented with WBC of 55 with both left shift and bandemia.  Given
   history of recent recurrent c. diff in setting of sepsis, c. diff
   associated leukemoid reaction seems most likely.  Rapid rise to 90K
   overnight is unusual, especially in setting of no stool, absence of
   bowel movements does raise concern for toxic megacolon. Abd is
   distented and tender but dose not clinically appear consistent with
   peritonitis.  No free air on CXR.
   -discuss WBC with heme team, ? utility of smear, other possible
   etiologies.
   -Consider KUB if abdominal exam worsens
   #ESLD: Hx of NASH cirrhosis c/b metastatic HCC s/p RFA.
   -c/s liver team, they came by at time of admission to ICU recommended
   septic w/u and tx as above, continue to follow up with them for ongoing
   mgmt.
   -expectant management of fluid shift/possible need for therapeutic tap
   -hold lactulose for now given likely colitis
   -folic acid/thiamine
   -f/u peritoneal fluid as above
   -holding nadolol in setting of hypotension
   .
   #GIB:
   Pt has h/o portal hypertension with known varices, also with known
   cecal AVMs p/w guaiac + brown stool and Hct below baseline at 23.7,
   baseline per review of OMR high 20s low 30s.
   -d/w liver team, agree with mgmt thus far
   -tx to goal >30
   -Q8 hour HCT
   -hold ASA
   -IV BID PPI
   .
   #ARF:
   Evidence end organ dysfunction in setting of hypotension/sepsis more
   likely that HRS.
   -Agressive fluid rescusitation as above
   -continue to monitor
   -avoid nephrotoxic meds
   -renally dose abx
   -check bladder pressure
   .
   # Hypothyroid:
   - continue levothyroxine
   .
   # DM:
   -RISS
   .
   # BPH:
   -tamsulosin held for hypotension
   .
   #CAD. No CP, CEs negative, ecg unchanged.
   -no asa for now in setting of GIB
   ICU Care
   Nutrition:
   Comments: NPO for now, consider feeding if has BM
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2201-8-7**] 05:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2201-08-08 08:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2201-08-09 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2201-8-8**] 07:43 PM
 Tolerated weaning of dopamin and vasopressing. Levophed dosing
   reduced.
 hematology consult obtained
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2201-8-8**] 10:00 PM
   Vancomycin - [**2201-8-9**] 04:00 AM
   Piperacillin - [**2201-8-9**] 04:54 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2201-8-8**] 08:00 AM
   Pantoprazole (Protonix) - [**2201-8-9**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-9**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 65 (59 - 73) bpm
   BP: 110/64(76) {104/38(55) - 125/70(79)} mmHg
   RR: 19 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.8 kg (admission): 68 kg
    CVP: 8 (5 - 14)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Mixed Venous O2% Sat: 79 - 79
   Total In:
                                                                  2,246 mL
                                                                    336 mL
   PO:
                                                                    200 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,671 mL
                                                                    286 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,135 mL
                                                                    330 mL
   Urine:
                                                                  1,135 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,111 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.30/26/91/14/-11
   Physical Examination
   General: Awake, responding to questions, mildly confused. Ill,
   cachectic elderly man
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MM dry, telangiectasias
   on face.
   Neck: supple, JVP to 12cm, left IJ in place
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: + distended, ascites, non-tense. Minimally TTP diffusely, no
   rebound or guarding. Mild suprapubic tenderness.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no rashes or lesions noted.  Pale with multiple cherry angiomata
   and telangiectasias.
   Neurologic: Alert, confused with poor attention and short term memory.
   Responding appropriately to questions, follows commands.
   Labs / Radiology
   156 K/uL
   9.4 g/dL
   78 mg/dL
   2.0 mg/dL
   14 mEq/L
   4.3 mEq/L
   49 mg/dL
   111 mEq/L
   139 mEq/L
   29.5 %
   75.8 K/uL
        [image002.jpg]
                             [**2201-8-7**]  06:47 PM
                             [**2201-8-7**]  08:46 PM
                             [**2201-8-8**]  03:12 AM
                             [**2201-8-8**]  09:41 AM
                             [**2201-8-8**]  12:58 PM
                             [**2201-8-8**]  06:28 PM
                             [**2201-8-8**]  06:47 PM
                             [**2201-8-9**]  03:02 AM
   WBC
   80.8
   93.6
   93.6
   87.1
   75.8
   Hct
   27
   25.4
   29.1
   26.4
   28.4
   29.5
   Plt
   [**Telephone/Fax (3) 4430**]65
   156
   Cr
   2.0
   1.9
   2.0
   TropT
   <0.01
   TCO2
   13
   13
   Glucose
   154
   107
   115
   78
   Other labs: PT / PTT / INR:16.3/61.0/1.5, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:22/41, Alk Phos / T Bili:384/1.8,
   Amylase / Lipase:35/, Differential-Neuts:94.0 %, Band:1.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL,
   LDH:179 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   84M with ESLD with refractory ascites and metastatic HCC, recent c.
   diff p/w falls, hypotension, hypothermia.
   .
   PLAN:
   #Hypotension:
   Pt was in severe septic shock, hypotension not responsive to IVF,
   presented to ED on 2 pressors, hypothermic with increase in his
   baseline leukocytosis with 5% bandemia.  Ddx most likely infectious
   with possible sources c. diff (especially given recent c. diff
   infection, ongoing abx use for SBP ppx, diarrhea and leukocytosis),
   SBP.  PNA unlikely given minimal 02 requirement and nl CT and CXR.  UA
   is bland, no meningeal signs or focal neuro findings to suggest a CNS
   infection, no evidence skin infection.  Alternative etiologies for
   hypotension include relative adrenal insufficiency especially in
   setting of known malignancy with new adrenal lesion on CT. Cardiogenic
   shock unlikely given unchanged ECG, negative CEs and no evidence of CHF
   on CXR or exam.  PE also unlikely in as not hypoxic on exam, not
   tachycardic.
   --send C.diff samples
   --continue empiric coverage for severe c. diff with PO vancomycin and
   IV flagyl
   --close monitoring for development of toxic megacolon
   --broad coverage for severe sepsis with vancomycin IV and zosyn
   --UA negative, f/u cultures
   --ascites fluid negative for SBP, follow up gram stain and cultures
   --follow up blood cultures.
   .
   -Septic shock
   --IVF (use NS despite hyperchloremic acidosis as LR contraindicated in
   ESLD, hyperkalemia, hypernatremia)to keep CVP 8-12, UOP ~50cc/hour
   --Tx to keep hct >30
   --continue to work on weaning levophed, goal MAP>65
   .
   # Leukocytosis:
   Appreciate heme input. Appears most likely etiology is response to
   infection. Will re-check LAP and send flow cytometry. WBC count
   improved today. Will check Jak2 mutation.
   .
   #ESLD: Hx of NASH cirrhosis c/b metastatic HCC s/p RFA.
   -appreciate liver input
   -expectant management of fluid shift/possible need for therapeutic tap
   -hold lactulose for now given likely colitis
   -folic acid/thiamine
   -f/u peritoneal fluid as above
   -holding nadolol in setting of hypotension
   .
   #GIB:
   Pt has h/o portal hypertension with known varices, also with known
   cecal AVMs p/w guaiac + brown stool and Hct below baseline at 23.7,
   baseline per review of OMR high 20s low 30s.
   -d/w liver team, agree with mgmt thus far
   -tx to goal >30
   -Q12 hour HCT
   -hold ASA
   -daily PPI
   .
   #ARF:
   Evidence end organ dysfunction in setting of hypotension/sepsis more
   likely that HRS.
   -Agressive fluid rescusitation as above
   -continue to monitor
   -avoid nephrotoxic meds
   -renally dose abx
   -check bladder pressure
   .
   # Hypothyroid:
   - continue levothyroxine
   .
   # DM:
   -RISS
   .
   # BPH:
   -tamsulosin held for hypotension
   .
   #CAD. No CP, CEs negative, ecg unchanged.
   -no asa for now in setting of GIB
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2201-8-7**] 05:00 PM
   Presep Catheter - [**2201-8-7**] 05:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI as above
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2201-08-12 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Pt complained of significant lower abd pain overnight. Pain
   controlled, WBC count found to have trended up, lactate elevated, BP
   moderately lower. Pt given 1 L NS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2201-8-12**] 12:29 AM
   Piperacillin - [**2201-8-12**] 12:29 AM
   Vancomycin - [**2201-8-12**] 05:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-12**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 73 (66 - 113) bpm
   BP: 91/43(55) {80/41(55) - 146/92(148)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.8 kg (admission): 68 kg
    CVP: 15 (10 - 129)mmHg
   Total In:
                                                                  2,100 mL
                                                                    476 mL
   PO:
                                                                    460 mL
   TF:
   IVF:
                                                                  1,640 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    505 mL
   Urine:
                                                                    805 mL
                                                                    505 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    395 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///13/
   Physical Examination
   General: Awake, responding to questions, mildly confused. Ill,
   cachectic elderly man
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MM dry, telangiectasias
   on face.
   Neck: supple, JVP to 12cm, left IJ in place
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: + distended, ascites, non-tense. Minimally TTP diffusely, no
   rebound or guarding. Mild suprapubic tenderness.
   Extremities: No edema, 2+ radial, DP pulses b/l. Large area of
   ecchymosis left thigh and flank.
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no rashes or lesions noted.  Pale with multiple cherry angiomata
   and telangiectasias.
   Neurologic: Alert, confused with poor attention and short term memory.
   Responding appropriately to questions, follows commands
   Labs / Radiology
   130 K/uL
   9.3 g/dL
   113 mg/dL
   2.0 mg/dL
   13 mEq/L
   3.8 mEq/L
   46 mg/dL
   120 mEq/L
   146 mEq/L
   29.9 %
   67.7 K/uL
        [image002.jpg]
                             [**2201-8-9**]  03:02 AM
                             [**2201-8-9**]  09:06 AM
                             [**2201-8-9**]  04:07 PM
                             [**2201-8-10**]  05:16 AM
                             [**2201-8-10**]  05:51 PM
                             [**2201-8-11**]  03:48 AM
                             [**2201-8-11**]  01:00 PM
                             [**2201-8-11**]  04:23 PM
                             [**2201-8-11**]  08:51 PM
                             [**2201-8-12**]  03:34 AM
   WBC
   75.8
   88.3
   85.5
   76.2
   62.4
   82.6
   67.7
   Hct
   29.5
   27.9
   29.3
   32.5
   28.8
   27.7
   29.2
   30.7
   29.9
   Plt
   156
   159
   164
   146
   136
   142
   130
   Cr
   2.0
   2.0
   2.1
   2.1
   2.2
   2.0
   Glucose
   78
   90
   97
   94
   142
   114
   113
   Other labs: PT / PTT / INR:16.3/61.0/1.5, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:15/25, Alk Phos / T Bili:335/2.0,
   Amylase / Lipase:31/25, Differential-Neuts:96.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Albumin:2.6
   g/dL, LDH:279 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   84M with ESLD with refractory ascites and metastatic HCC, recent c.
   diff p/w falls, hypotension, hypothermia.
   .
   PLAN:
   #Hypotension:
   Pt had hypotension not responsive to fluid rescusitation, at one point
   with 3-pressor requirement. Was hypothermic with rapidly elevating
   WBC.  Overall picture most likely consistent with infection/septic
   shock.  Potential sources include peritoneal fluid, urine, PNA, c.
   diff.  No evidence CNS infection by exam.  Peritoneal fluid negative
   for SBP, no 02 requirement, CXR clear. UA and Cx neg. Blood cx neg. Pt
   had recent c. diff infection in [**Month (only) 591**], was treated as outpatient with PO
   vanc, receipt of prescription confirmed with pharmacy.  Still at high
   risk for recurrent c. diff, leukocytosis c/w this.
   -- three c. diff toxins negative, will contact lab about sending
   cytotoxic assay as more sensitive.
   --Continue to cover for severe c. diff with IV flagyl and PO vanc (plan
   for 14 day course at completion of vanc/Zosyn treatment course)
   --Given that pt improved on current abx regimen, and was critically ill
   will continue empiric IV vanc and zosyn for planned 7 day course while
   continuing to look for source.
   -- Continue to follow up cultures.
   -- If WBC remains elevated in face of abx treatment, consider tagged
   WBC scan to determine occult etiology for infection.
   # Leukocytosis:
   Appreciate heme input. Appears most likely etiology is response to
   infection; elevated LAP score consistent with this. Will f/u flow
   cytometry. WBC count improved today. Will check Jak2 mutation.
   .
   #ESLD: Hx of NASH cirrhosis c/b metastatic HCC s/p RFA.
   -appreciate liver input, when called out should go to [**Hospital Ward Name 790**] 10
   -expectant management of fluid shift/possible need for therapeutic tap
   -Continue lactulose and titrate to frequent bowel movements
   -add back folic acid/thiamine now that taking PO
   -f/u peritoneal fluid as above
   - nadolol restarted
   .
   #GIB:
   Pt has h/o portal hypertension with known varices, also with known
   cecal AVMs p/w guaiac + brown stool and Hct below baseline at 23.7,
   baseline per review of OMR high 20s low 30s.
   -d/w liver team, agree with mgmt thus far
   -tx to goal >25
   -Q12 hour HCT
   -hold ASA
   -daily PPI
   .
   #ARF: Only minimally off recent baseline of 1.8 (cr currently 2.1),
   though this may be his new baseline.
   Evidence end organ dysfunction in setting of hypotension/sepsis more
   likely that HRS.
   -Agressive fluid rescusitation as above
   -continue to monitor
   -avoid nephrotoxic meds
   -renally dose abx
   # Flank hematoma. s/p fall, no fracture seen on imaging. HCT has been
   stable now for 1-2 days. Continue to monitor; transfuse PRN to keep HCT
   >25.
   .
   # Hypothyroid:
   - continue levothyroxine
   .
   # DM:
   -RISS
   .
   # BPH:
   -tamsulosin held for hypotension
   .
   #CAD. No CP, CEs negative, ecg unchanged.
   -no asa for now in setting of GIB
   ICU Care
   Nutrition:
   Glycemic Control:  sugars under fair control
   Lines:
   18 Gauge - [**2201-8-7**] 05:00 PM
   Presep Catheter - [**2201-8-7**] 05:58 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PO diet
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2201-08-12 09:50:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   end stage liver, metastatic HCC
   24 Hour Events:
 EKG - At [**2201-8-11**] 05:25 PM
   Bolus 1 L NS overnight
   3 C diff negative
   This AM complaining of abdominal distension and tightness
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2201-8-12**] 05:30 AM
   Metronidazole - [**2201-8-12**] 08:00 AM
   Piperacillin - [**2201-8-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-8-12**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 69 (66 - 113) bpm
   BP: 113/45(63) {80/41(55) - 146/92(148)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.8 kg (admission): 68 kg
   CVP: 16 (10 - 129)mmHg
   Total In:
                                                                  2,100 mL
                                                                    698 mL
   PO:
                                                                    460 mL
   TF:
   IVF:
                                                                  1,640 mL
                                                                    698 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    585 mL
   Urine:
                                                                    805 mL
                                                                    585 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    395 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///13/
   Physical Examination
   General Appearance: Thin, conversant complaining of abd pain
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal
   Respiratory / Chest: dimished BS with bibasilar rales nut no wheezes
   Extremities: echymoses from post back to ankle on left
 stable to
   improved from yesterdya
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  warm, ecchymotic as above, left hip ulceration
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   9.3 g/dL
   130 K/uL
   113 mg/dL
   2.0 mg/dL
   13 mEq/L
   3.8 mEq/L
   46 mg/dL
   120 mEq/L
   146 mEq/L
   29.9 %
   67.7 K/uL
        [image002.jpg]
                             [**2201-8-9**]  03:02 AM
                             [**2201-8-9**]  09:06 AM
                             [**2201-8-9**]  04:07 PM
                             [**2201-8-10**]  05:16 AM
                             [**2201-8-10**]  05:51 PM
                             [**2201-8-11**]  03:48 AM
                             [**2201-8-11**]  01:00 PM
                             [**2201-8-11**]  04:23 PM
                             [**2201-8-11**]  08:51 PM
                             [**2201-8-12**]  03:34 AM
   WBC
   75.8
   88.3
   85.5
   76.2
   62.4
   82.6
   67.7
   Hct
   29.5
   27.9
   29.3
   32.5
   28.8
   27.7
   29.2
   30.7
   29.9
   Plt
   156
   159
   164
   146
   136
   142
   130
   Cr
   2.0
   2.0
   2.1
   2.1
   2.2
   2.0
   Glucose
   78
   90
   97
   94
   142
   114
   113
   Other labs: PT / PTT / INR:16.3/61.0/1.5, CK / CKMB /
   Troponin-T:39/3/<0.01, ALT / AST:15/25, Alk Phos / T Bili:335/2.0,
   Amylase / Lipase:31/25, Differential-Neuts:96.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Albumin:2.6
   g/dL, LDH:279 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   1) Septic shock-Off pressors most likely source is abdominal given
   recent C. diff but we now have 3 neg C diff. we are sending off toxin
   and will keep on therapy for now. He has had neg blood urine and
   peritoneal fluid culture> Non con abd ct negative at admission.
   Hematoma could be superinfected but this would be a 2ndry process not
   the initial etiology of his sepsis. At this point we will complete
   7 days for zosyn/vanc and continue flagyl/po vanc and follow
   clinically.  Resend peritoneal fluid.  Add on ESR and CRP - ? osteo.
   Could consider tagged WBC scan
 but given his overall prognosis the
   likelihood of finding something upon which we could intervene may be
   low. Will discuss further with Dr [**Last Name (STitle) 2233**].
   2) Acute renal failure likely due to shock/ATN -improving urine
   output.
   3) Leukocytosis WBC 64 now trending down, likely reactive given
   increased LAP score and responding to antibiotics
   4) Flank hematoma Hgb stable, large ecchymosis on exam holding without
    transfusion
   5) Free Water deficit- calculate free water deficit and replete
 with
   d5 w today.
   6) Cirrhosis-Lactulose at TID with voluminous output, change to [**Hospital1 **]
   ICU Care
   Nutrition: soft solids, speech and swallow
   Glycemic Control:  SSRi
   Lines:
   18 Gauge - [**2201-8-7**] 05:00 PM
   Presep Catheter - [**2201-8-7**] 05:58 PM
   Prophylaxis:
   DVT: Boots
   Communication:  with ot and wife
   [**Name (NI) 66**] status: DNR / DNI
   Disposition :Transfer to floor